US07674795B2
Carry out the procedure as in Example 6, starting from 1.7 g of 4-(6-fluoro-1H-benzimidazol-2-yl)-fluoren-9-one oxime (Z,E), obtained in Example 70, and 6 mg of Raney Nickel in 90 ml of ethanol and 90 ml of tetrahydrofuran for 4 hours at 60° C. under a hydrogen pressure of 1 bar. After purification by making a paste in diisopropyl ether, we obtain 1.58 g of 4-(6-fluoro-1H-benzimidazol-2-yl)-9H-fluoren-9(R,S)-ylamine, in the form of a beige powder with the following characteristics:

reactant | 4-(6-fluoro-1H-benzimidazol-2-yl)-fluoren-9-one oxime | 1.7 g | FC=1C=CC2=C(NC(=N2)C2=CC=CC=3C(C4=CC=CC=C4C23)=NO)C1 | C20H12FN3O
catalyst | Raney Nickel | 6 mg | [Ni] | Ni
solvent | ethanol | 90 ml | C(C)O | C2H6O
solvent | tetrahydrofuran | 90 ml | O1CCCC1 | C4H8O
product | 4-(6-fluoro-1H-benzimidazol-2-yl)-9H-fluoren-9(R,S)-ylamine | 1.58 g | FC=1C=CC2=C(NC(=N2)C2=CC=CC=3C(C4=CC=CC=C4C23)N)C1 | C20H14FN3
